US07250410B2
7,8-dimethoxy-1-(2-hydroxyethyl)-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIcx.
To a solution of 150 mg (0.50 mmol) of 7,8-dimethoxy-5-phenyl-1,3-dihydro-1,4-benzodiazepin-2-one XXIIaa in 5 ml of DMF, add at 0° C. under an inert atmosphere 21 mg (0.52 mmol) of 60% NaH in oil. Stir at room temperature for 1 hour. Add at 0° C., 53 mg (0.60 mmol) of ethylene carbonate. Stir at room temperature overnight. Add 50 ml of H2O and extract three times with 50 ml of AcOEt; dry on MgSO4, evaporate the AcOEt and purify by silica chromatography (AcOEt 3/hexane 1, then AcOEt). Recrystallize in CHCl3/cHexane. Yield: 40%. M: 128–130° C. 1H-NMR (DMSO, 300 MHz): d 3.36–3.52 (m, 2H, HOCH2), 3.60 (s, 3H, OCH3), 3.70–3.86 (m, 5H, NCH2+OCH3), 4.11 (AB system, ? d=0.77, JAB=9.96, 2H, CH2), 4.77 (m, 1H, OH), 6.60 (s, 1H Ar), 7.39 (s, 1H Ar), 7.42–7.58 (m, 4H Ar). Mass: (M+H)+=341.16.

reactant | 7,8-dimethoxy-5-phenyl-1,3-dihydro-1,4-benzodiazepin-2-one | 0.50 mmol, 150 mg | COC=1C(=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1)OC | C17H16N2O3
reactant | NaH | [H-].[Na+]
reactant | ethylene carbonate | 0.60 mmol, 53 mg | C1(OCCO1)=O | C3H4O3
reactant | H2O | 50 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 7,8-dimethoxy-1-(2-hydroxyethyl)-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 40% | COC=1C(=CC2=C(C(=NCC(N2CCO)=O)C2=CC=CC=C2)C1)OC | C19H20N2O4
